************************************************************************************
.subckt AHAH-FFXX nout1 nout2
.PARAM period={1/(PulseFreq+1e-20)}
.PARAM p1={0.5*period}
.PARAM p2={period}
.PARAM p3={0.5*period}
.PARAM p4={period}
Vnout1 0 nout1 dc 0 ac 0 pulse( -1e-15 {-1*ScaleFactor} 0 1n 1n {p1} {p2})
Rout1 nout1 0 1
Vnout2 0 nout2 dc 0 ac 0 pulse( 1e-15 {ScaleFactor} 0 1n 1n {p3} {p4})
Rout2 nout2 0 1
.ends AHAH-FFXX
************************************************************************************
.subckt AHAH-RHXX nout1 nout2
.PARAM period={1/(PulseFreq+1e-20)}
.PARAM p1={0.5*period}
.PARAM p2={period}
.PARAM p3={0.5*period}
.PARAM p4={period}
Vnout1 0 nout1 dc 0 ac 0 pulse( 1e-15 {ScaleFactor} 0 1n 1n {p1} {p2})
Rout1 nout1 0 1
Vnout2 0 nout2 dc 0 ac 0 pulse( 1e-15 {ScaleFactor} 0 1n 1n {p3} {p4})
Rout2 nout2 0 1
.ends AHAH-RHXX
************************************************************************************
.subckt AHAH-RLXX nout1 nout2
.PARAM period={1/(PulseFreq+1e-20)}
.PARAM p1={0.5*period}
.PARAM p2={period}
.PARAM p3={0.5*period}
.PARAM p4={period}
Vnout1 0 nout1 dc 0 ac 0 pulse( -1e-15 {-1*ScaleFactor} 0 1n 1n {p1} {p2})
Rout1 nout1 0 1
Vnout2 0 nout2 dc 0 ac 0 pulse( -1e-15 {-1*ScaleFactor} 0 1n 1n {p3} {p4})
Rout2 nout2 0 1
.ends AHAH-RLXX
